US08309546B2
{1-[2-(2-Amino-4-methylpyrimidin-5-yl)-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-8-yl]piperidin-4-yl}methanol
N-Methylpyrrolidone (1 ml) was added to 5-[8-chloro-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-2-yl]-4-methylpyrimidin-2-amine (100 mg, 0.25 mmol) and 4-piperidinemethanol (172 mg, 1.5 mmol) and the resulting mixture was stirred at 120° C. for 0.5 hours. The reaction mixture was partitioned with ethyl acetate and water and the organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was concentrated under reduced pressure and the residue was purified by preparative HPLC (column, NOMURA Develosil Combi-RP-5; mobile phase, acetonitrile/water/formic acid) to give the title compound (69 mg, 58%) as a pale yellow solid.

reactant | 5-[8-chloro-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-2-yl]-4-methylpyrimidin-2-amine | 0.25 mmol, 100 mg | ClC=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C(=NC(=NC1)N)C)CC1CC1 | C18H21ClN8O
reactant | 4-piperidinemethanol | 1.5 mmol, 172 mg | N1CCC(CC1)CO | C6H13NO
solvent | N-Methylpyrrolidone | 1 ml | CN1C(CCC1)=O | C5H9NO
product | {1-[2-(2-Amino-4-methylpyrimidin-5-yl)-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-8-yl]piperidin-4-yl}methanol | 69 mg, 58% | NC1=NC=C(C(=N1)C)C1=NC(=C2N=C(N(C2=N1)CC1CC1)N1CCC(CC1)CO)N1CCOCC1 | C24H33N9O2
